US09216999B2
4-{[(tert-Butyldimethylsilyl)oxy]methyl}-N-methoxy-N-methylcyclohexanecarboxamide
4-(Hydroxymethyl)cyclohexanecarboxic acid (25.0 g, 158 mmol) and N,O-dimethylhydroxylamine hydrochloride (23.1 g, 237 mmol) in chloroform (100 mL) were mixed with 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (36.4 g, 190 mmol), 1-hydroxybenzotriazole (5.00 g, 37.0 mmol) and N,N-diisopropylethylamine (41.3 mL, 237 mmol) and stirred at room temperature for 1 day. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (100 mL) and mixed with imidazole (21.5 g, 316 mmol) and tert-butylchlorodimethylsilane (26.2 g, 174 mmol). The reaction mixture was stirred at room temperature for 1 day. After addition of water, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1→3/1 (v/v)) to give the title compound as a colorless oil (32.4 g, yield 65%).

reactant | 4-(Hydroxymethyl)cyclohexanecarboxic acid | 158 mmol, 25.0 g | OCC1CCC(CC1)C(=O)O | C8H14O3
reactant | N,O-dimethylhydroxylamine hydrochloride | 237 mmol, 23.1 g | Cl.CNOC
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 190 mmol, 36.4 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 37.0 mmol, 5.00 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 237 mmol, 41.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | imidazole | 316 mmol, 21.5 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 174 mmol, 26.2 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 4-{[(tert-Butyldimethylsilyl)oxy]methyl}-N-methoxy-N-methylcyclohexanecarboxamide | 32.4 g, yield 65% | [Si](C)(C)(C(C)(C)C)OCC1CCC(CC1)C(=O)N(C)OC | C16H33NO3Si
